US06114390
a) Phenylmethyl 1-[3-(diethylamino)propyl]-1H-indole-3-acetate
At a temperature of about +50° C., 6.2 g (44.9 mMol) of potassium carbonate were added to a solution of 4.0 g (15.1 mMol) of phenylmethyl 1H-indole-3-acetate in 40 ml of dimethylformamide and then at the same temperature a solution of 3.0 g (20.0 mMol) of 3-(diethylamino)propylchloride in 5 ml of dimethylformamid were added dropwise. The mixture was stirred for a further hour at 50° C. and overnight at ambient temperature, heated up to 100° C. again and once more 1.0 g of 3-(diethylamino)propylchloride were added. After stirring for 5 hours at ambient temperature, the mixture was stirred into 300 ml of ice water and extracted exhaustively with diisopropylether. The combined organic extracts were washed with saturated saline solution, dried over magnesium sulphate, clarified with activated charcoal and evaporated down under reduced pressure. A colourless oil was obtained in a yield of 5.37 g (94% of theory) and was used in the following step without further purification.

reactant | potassium carbonate | 44.9 mMol, 6.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | phenylmethyl 1H-indole-3-acetate | 15.1 mMol, 4.0 g | N1C=C(C2=CC=CC=C12)CC(=O)OCC1=CC=CC=C1 | C17H15NO2
reactant | 3-(diethylamino)propylchloride | 20.0 mMol, 3.0 g | C(C)N(CCCCl)CC | C7H16ClN
reactant | 3-(diethylamino)propylchloride | 1.0 g | C(C)N(CCCCl)CC | C7H16ClN
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamid | 5 ml | CN(C=O)C | C3H7NO
product | Phenylmethyl 1-[3-(diethylamino)propyl]-1H-indole-3-acetate | C(C)N(CCCN1C=C(C2=CC=CC=C12)CC(=O)OCC1=CC=CC=C1)CC | C24H30N2O2
